US07569592B2
To a solution of 1-pyridin-2-yl-1,2dihydro-3H-pyrazol-3-one (0.161 g, 1.0 mmol) and triethylamine (0.112 g, 1.1 mmol) in THF (10 mL) at −78° C. was added trifluoromethanesulfonic anhydride (0.253 g, 1 mmol) dropwise. The resulting reaction mixture was stirred and allowed to warm to ambient temperature over 4 h. The reaction was quenched by the addition of H2O (15 mL), then extracted with EtOAc (3×20 mL) and washed with brine. The combined organic extracts were dried over Na2SO4 and concentrated in vacuo. The crude residue was chromatographed on silica gel eluting with EtOAc:hexane (1:9) to afford 1-pyridin-2-yl-1H-pyrazol-3-yl trifluoromethanesulfonate as white crystals. 1H NMR (CD3Cl, 300 MHz) δ 8.57 (d, 1H), 8.43 (d, 1H), 7.91˜7.83 (m, 2H), 7.29˜7.25 (m, 1H) 6.38 (d, 1H). MS (ESI) 294 (M++H).

reactant | 1-pyridin-2-yl-1,2dihydro-3H-pyrazol-3-one | 1.0 mmol, 0.161 g | N1=C(C=CC=C1)N1NC(C=C1)=O | C8H7N3O
reactant | triethylamine | 1.1 mmol, 0.112 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 1 mmol, 0.253 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-pyridin-2-yl-1H-pyrazol-3-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=NN(C=C1)C1=NC=CC=C1)(F)F | C9H6F3N3O3S
